US03991065
8-Thiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline
8-Benzoylthiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline (6 g.) was treated with a 10% sodium hydroxide solution (24 ml.) and the mixture heated on a steam bath for 15 minutes. The cooled reaction mixture was adjusted to pH 1.0 with conc. HC1, filtered to remove benzoic acid and the filtrate adjusted to pH 10.0 with aqueous ammonia. The resultant solid was recrystallised from ethanol to give the hydrate of the title compound as colourless needles (4 g.). m.p. 114° C. (Found C, 55.3; H, 7.3; N, 17.2. C11H15N3S.H2O requires: C,55.1; H, 7.3; N, 17.4%). The product displayed anti-ulcer activity.

reactant | 8-Benzoylthiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline | 6 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCCC=2C=C(C=NC12)C | C18H19N3OS
reactant | sodium hydroxide | 24 ml | [OH-].[Na+]
product | 8-Thiocarbamoylamino-3-methyl-5,6,7,8-tetrahydroquinoline | 4 g | C(N)(=S)NC1CCCC=2C=C(C=NC12)C | C11H15N3S
